* SPDX-License-Identifier: Apache-2.0
* Full-swing event restorer preserving the active-high evaluation interval.
.subckt sense_noninv_inv A Y VDD VSS params: WP=4u WN=2u MP=1 MN=1
XP Y A VDD VDD pfet_03v3 w={WP} l=0.28u m={MP}
XN Y A VSS VSS nfet_03v3 w={WN} l=0.28u m={MN}
.ends sense_noninv_inv

.subckt sense_cmos_noninv IN REF VBIAS VDD VSS OUTP OUTN
* REF and VBIAS are retained only for parent-interface compatibility.
XIN IN B VDD VSS sense_noninv_inv WP=8u WN=2u MP=6 MN=1
XPRE B C VDD VSS sense_noninv_inv WP=4u WN=2u MP=2 MN=2
XMID C D VDD VSS sense_noninv_inv WP=8u WN=6u MP=8 MN=4
XOUT D OUTN VDD VSS sense_noninv_inv WP=8u WN=6u MP=8 MN=12
XUNUSED D OUTP VDD VSS sense_noninv_inv WP=4u WN=2u MP=1 MN=1
.ends sense_cmos_noninv
